US08754079B2
244.1 4-(2-Cyclopentoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Prepared analogously to example 243.2 from 4-(4-fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (67 mg) and bromocyclopentane (60 mg).

reactant | 4-(4-fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 67 mg | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O)S1)C | C15H12FN3O3S
reactant | bromocyclopentane | 60 mg | BrC1CCCC1 | C5H9Br
product | 4-(2-Cyclopentoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CCCC2)S1)C | C20H20FN3O3S
